US08168654B2
(R)-1-(3-tert-Butoxycarbonylamino-propyl)-3-(2-hydroxy-2,2-di-thiophen-2-yl-acetoxy)-1-azonia-bicyclo[2.2.2]octane bromide
Hydroxy-di-thiophen-2-yl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester (0.758 g, 2.17 mmol) and 3(BOC-amino) propylbromide (0.775 g, 3.25 mmol) are dissolved in DMF (7 ml) and heated at 60° C. for 2.5 hours. The solvent is removed in vacuo and purification of the crude residue by chromatography on C18 silica, eluting with water:acetonitrile affords the titled compound as an oil.

reactant | Hydroxy-di-thiophen-2-yl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester | 2.17 mmol, 0.758 g | N12C[C@@H](C(CC1)CC2)OC(C(C=2SC=CC2)(C=2SC=CC2)O)=O | C17H19NO3S2
reactant | 3(BOC-amino) propylbromide | 3.25 mmol, 0.775 g | C(=O)(OC(C)(C)C)NCCCBr | C8H16BrNO2
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | (R)-1-(3-tert-Butoxycarbonylamino-propyl)-3-(2-hydroxy-2,2-di-thiophen-2-yl-acetoxy)-1-azonia-bicyclo[2.2.2]octane bromide | [Br-].C(C)(C)(C)OC(=O)NCCC[N+]12C[C@@H](C(CC1)CC2)OC(C(C=2SC=CC2)(C=2SC=CC2)O)=O | InChI=1S/C25H34N2O5S2.BrH/c1-24(2,3)32-23(29)26-11-6-12-27-13-9-18(10-14-27)19(17-27)31-22(28)25(30,20-7-4-15-33-20)21-8-5-16-34-21;/h4-5,7-8,15-16,18-19,30H,6,9-14,17H2,1-3H3;1H/t18?,19-,27?;/m0./s1
